US07417060B2
To a solution of benzyl [(2R)-2-[4-(benzyloxy)-3-[(methylsulfonyl)amino]phenyl]-2-hydroxyethyl][2-(4-bromophenyl)ethyl]carbamate (600 mg) and [3-isopropoxy-4-[(N-methanesulfonyl)carbamoyl]phenyl]boronic acid (365 mg) in 1,2-dimethoxyethane (9 ml) were added sodium carbonate aqueous solution (2M, 2.03 ml) and tetrakis-(triphenylphosphine)palladium (89.5 mg) at room temperature and stirred at 75° C. for 10 hours under nitrogen. The mixture was poured into hydrochloric acid aqueous solution (1M) and ethyl acetate, added active carbon and stirred at room temperature for 2 hours. The mixture was filtrated and partitioned. The organic layer was washed with water and brine, dried over magnesium sulfate and evaporated. The residue was purified by column chromatography on silica gel (hexane/ethyl acetate=2/3) to give a biphenyl product. To a solution of the biphenyl product (303 mg) in methanol (15 ml) was added palladium on carbon (150 mg), the atmosphere was replaced with hydrogen and stirred for 40 minutes at room temperature. The mixture was diluted with chloroform and filtrated. To the solution was added hydrogen chloride ethyl acetate solution (4N, 110 μl) and evaporated to give 4′-[2-[[(2R)-2-hydroxy-2-[4-hydroxy-3-[(methylsulfonyl)-amino]phenyl]ethyl]amino]ethyl]-3-isopropoxy-N-methylsulfonyl)-4-biphenylcarboxamide hydrochloride (188 mg).

reactant | benzyl [(2R)-2-[4-(benzyloxy)-3-[(methylsulfonyl)amino]phenyl]-2-hydroxyethyl][2-(4-bromophenyl)ethyl]carbamate | 600 mg | C(C1=CC=CC=C1)OC1=C(C=C(C=C1)[C@H](CN(C(OCC1=CC=CC=C1)=O)CCC1=CC=C(C=C1)Br)O)NS(=O)(=O)C | C32H33BrN2O6S
reactant | [3-isopropoxy-4-[(N-methanesulfonyl)carbamoyl]phenyl]boronic acid | 365 mg | C(C)(C)OC=1C=C(C=CC1C(NS(=O)(=O)C)=O)B(O)O | C11H16BNO6S
reactant | sodium carbonate | 2M, 2.03 ml | C([O-])([O-])=O.[Na+].[Na+]
reactant | hydrochloric acid | 1M | Cl | ClH
solvent | 1,2-dimethoxyethane | 9 ml | COCCOC | C4H10O2
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | biphenyl | C1(=CC=CC=C1)C1=CC=CC=C1 | C12H10
